US09238631B2
b) (5S)-2-(4-aminobenzyl)-6-tert-butoxy-2-(tert-butoxycarbonyl)-5-[(tert-butoxycarbonyl)amino]-6-oxohexanoic acid
4-benzyl 1,4-di-tert-butyl (1S,4S)-1-[(tert-butoxycarbonyl)amino]-5-(4-nitrophenyl)-pentane-1,4,4-tricarboxylate (1.04 g, 1.618 mmol) were dissolved in methanol (20 ml). Palladium (10% on charcoal) (52 mg) was added and the suspension was shaken under a hydrogen atmosphere for 12 h. The catalyst was filtered off, the residue was concentrated in vacuo, and the product was obtained as white foam (864 mg, quant.).

reactant | 4-benzyl 1,4-di-tert-butyl (1S,4S)-1-[(tert-butoxycarbonyl)amino]-5-(4-nitrophenyl)-pentane-1,4,4-tricarboxylate | 1.618 mmol, 1.04 g | C(C)(C)(C)OC(=O)N[C@@H](CC[C@](CC1=CC=C(C=C1)[N+](=O)[O-])(C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C34H46N2O10
solvent | methanol | 20 ml | CO | CH4O
catalyst | Palladium | 52 mg | [Pd] | Pd
product | (5S)-2-(4-aminobenzyl)-6-tert-butoxy-2-(tert-butoxycarbonyl)-5-[(tert-butoxycarbonyl)amino]-6-oxohexanoic acid | NC1=CC=C(CC(C(=O)O)(CC[C@@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C27H42N2O8
